US06727264B1
1-[3-(4-CHLOROBUTOXY)PHENYL]ETHANONE:
Prepared by Procedure U and Scheme AK using 1-(3-hydroxyphenyl)ethanone and 1-bromo-4-chlorobutane.

reactant | 1-(3-hydroxyphenyl)ethanone | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
product | 1-[3-(4-CHLOROBUTOXY)PHENYL]ETHANONE | ClCCCCOC=1C=C(C=CC1)C(C)=O | C12H15ClO2
